US09388161B2
Step 2. (S)-cyclopropyl(5-(2-fluorophenoxy)-2-methyl-6-(1-methyl-1H-1,2,3-triazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone
A mixture of (S)-cyclopropyl(5-(2-fluorophenoxy)-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone (0.140 g, 0.31 mmol), 4-bromo-1-methyl-1H-1,2,3-triazole (0.050 g, 0.31 mmol), sodium carbonate (0.090 g, 0.85 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.010 g, 0.01 mmol) in 1,4-dioxane (10 mL) and water (3 mL) was stirred overnight at 80° C. The reaction mixture was cooled to room temperature, filtered through a short pad of Celite, and concentrated under vacuum. The residue was purified via preparative thin layer chromatography (eluting with 2:1, petroleum ether-ethyl acetate). The product was further purified by preparative-HPLC with the following conditions (Waters I): Column, XBridge C18, 19×150 mm, 5 um; Mobile Phase water (0.05% ammonium bicarbonate) and acetonitrile (35% to 65% acetonitrile in 10 min, flow rate: 20 mL/min); Detector: UV254&220 nm. This afforded (S)-cyclopropyl(5-(2-fluorophenoxy)-2-methyl-6-(1-methyl-1H-1,2,3-triazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone (0.033 g, 26%) as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm 0.74-0.81 (m, 1H), 0.89-1.03 (m, 2H), 1.11-1.21 (m, 4H), 1.35-1.47 (m, 1H), 1.95-2.05 (m, 1H), 2.17-2.40 (m, 2H), 2.65-2.78 (m, 1H), 4.07 (s, 3H), 4.75-4.81 (m, 1H), 6.40-6.49 (m, 1H), 6.89-6.97 (m, 2H), 7.21-7.27 (m, 1H), 7.51 (d, J=8.40 Hz, 1H), 8.03 (s, 1H), 8.08 (d, J=8.40 Hz, 1H). MS (ESI, pos. ion) m/z 407 [M+H]+.

reactant | (S)-cyclopropyl(5-(2-fluorophenoxy)-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone | 0.31 mmol, 0.140 g | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)B1OC(C(O1)(C)C)(C)C)OC1=C(C=CC=C1)F)C | C26H31BFNO4
reactant | 4-bromo-1-methyl-1H-1,2,3-triazole | 0.31 mmol, 0.050 g | BrC=1N=NN(C1)C | C3H4BrN3
reactant | sodium carbonate | 0.85 mmol, 0.090 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.01 mmol, 0.010 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | (S)-cyclopropyl(5-(2-fluorophenoxy)-2-methyl-6-(1-methyl-1H-1,2,3-triazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1N=NN(C1)C)OC1=C(C=CC=C1)F)C | C23H23FN4O2
